US09260439B2
Step 4: Preparation of 4-chloro-7-(3,3-difluorocyclobutyl)-2-(methylsulfanyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine
To a solution of 2-{4-chloro-6-[(3,3-difluorocyclobutyl)amino]-2-(methylsulfanyl)pyrimidin-5-yl}ethyl methanesulfonate (922 mg, 2.38 mmol) in DMF (23 mL) was added DBU (0.725 mL, 4.75 mmol). The mixture was stirred at 80° C. for 1 h, whereupon the reaction mixture was diluted with EtOAc (40 mL), washed with water (20 mL) and brine (20 mL), dried over Na2SO4 and concentrated under reduced pressure to give 649 mg (94%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 4.44-4.33 (m, 1 H), 3.75 (t, J=8.5 Hz, 2 H), 3.13-2.99 (m, 2 H), 2.98-2.92 (m, 2 H), 2.91-2.81 (m, 2 H), 2.42 (s, 3 H). m/z (APCI+) for C11H12ClF2N3S 292.0 (M+H)+.

reactant | 2-{4-chloro-6-[(3,3-difluorocyclobutyl)amino]-2-(methylsulfanyl)pyrimidin-5-yl}ethyl methanesulfonate | 2.38 mmol, 922 mg | CS(=O)(=O)OCCC=1C(=NC(=NC1NC1CC(C1)(F)F)SC)Cl | C12H16ClF2N3O3S2
reactant | DBU | 4.75 mmol, 0.725 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-7-(3,3-difluorocyclobutyl)-2-(methylsulfanyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 649 mg, 94% | ClC=1C2=C(N=C(N1)SC)N(CC2)C2CC(C2)(F)F | C11H12ClF2N3S
